US04921855
A solution of benzyl 2(S)-morpholinocarbonyloxy-3-phenylpropionate (300 mg) in methanol (20 ml) was hydrogenated over 10% palladium on carbon (30 mg) at 3 atmospheric pressure of hydrogen for 1 hour. The solution was filtered and concentrated in vacuo to give 2(S)-morpholinocarbonyloxy-3-phenylpropionic acid (220 mg) as an oil.

reactant | benzyl 2(S)-morpholinocarbonyloxy-3-phenylpropionate | 300 mg | O1CCN(CC1)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | 2(S)-morpholinocarbonyloxy-3-phenylpropionic acid | 220 mg | O1CCN(CC1)C(=O)O[C@H](C(=O)O)CC1=CC=CC=C1 | C14H17NO5
